US04272437
trans-Ethyl 2-azidomethyl-1-cyclopropanecarboxylate
The trans-ethyl 2-methanesulfonyloxymethyl-1-cyclopropanecarboxylate from the previous step (1.655 g, 7.45 mmol) was dissolved in dry dimethyl sulfoxide (20 ml), treated with sodium azide (0.969 g, 14.89 mmol), and stirred at room temperature for 16 h. (tlc indicated no substrate left). After dilution with water, (50 ml), the reaction mixture was extracted with ether (3×50 ml) and the combined organic extracts washed several times (×6) with water and then brine (×3). After drying on anhydrous magnesium sulfate, evaporation of the solvent under reduced pessure gave an oil. Bulb to bulb distillation gave a clear liquid; 1.178 g (93%); bp 86°-90° C./4.0 mm Hg (air bath temperature); ir (film) νmax : 2090 (N3), 1725 cm-1 (C=0); -1Hmr (CDCl3) δ: 4.13 (2H, q, J=7, CH2 --CH3), 3.21 (2H, d, J= 6, CH2 --OMs), 2.0-0.6 (4H, m, cyclopropyl), 1.23 (3H, t, 5.7 CH2 --CH3). Anal. calcd for C7H11N3O2 : C 49.69, H 6.55, N 24.83; found: C 49.81, H 6.71, N 24.29.

reactant | trans-ethyl 2-methanesulfonyloxymethyl-1-cyclopropanecarboxylate | CS(=O)(=O)OC[C@H]1[C@@H](C1)C(=O)OCC | C8H14O5S
reactant | sodium azide | 14.89 mmol, 0.969 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | trans-Ethyl 2-azidomethyl-1-cyclopropanecarboxylate | N(=[N+]=[N-])C[C@H]1[C@@H](C1)C(=O)OCC | C7H11N3O2
